US07435753B2
Ethyl 2,3-dicyanopropanoate
To a solution of ethyl cyanoacetate (916.0 g, 8.10 mol) in N,N-dimethylformamide (2.5 L) was added slowly glycolonitrile (700.0 g, 6.75 mol) in water (55% solution). To the mixture was added potassium carbonate (932.7 g, 6.75 mol), over 1.5 h, ensuring that the reaction temperature did not rise above 30° C. The reaction mixture was then stirred at room temperature overnight. The reaction mixture was filtered and the filtrate adjusted to pH 3 by addition of acid. The organic phase was separated and partially concentrated in vacuo. To the concentrate was added diethyl ether (1L) and the solution was washed with water (5×1 L), dried (MgSO4) and concentrated in vacuo to give Preparation 46 (803 g).

reactant | ethyl cyanoacetate | 8.10 mol, 916.0 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | glycolonitrile | 6.75 mol, 700.0 g | C(CO)#N | C2H3NO
reactant | potassium carbonate | 6.75 mol, 932.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.5 L | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 2,3-dicyanopropanoate | C(#N)C(C(=O)OCC)CC#N | C7H8N2O2
